US07638515B2
5-{[5-Methoxy-2-hydroxy-2-(trifluoromethyl)-4,4,7-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one
Analogously to Example 10, the corresponding imine is produced starting from 500 mg of 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal and 288 mg of 5-amino-2-methylphthalazin-1-one. As in Example 3, 90 mg of the imine is reacted by reaction with 0.4 ml of titanium tetrachloride (1 M in dichloromethane) in 5 ml of dichloromethane, and 25 mg of the title compound is obtained.

reactant | 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 500 mg | COC1=C(C=CC(=C1)C)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H19F3O3
reactant | 5-amino-2-methylphthalazin-1-one | 288 mg | NC1=C2C=NN(C(C2=CC=C1)=O)C | C9H9N3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 0.4 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[5-Methoxy-2-hydroxy-2-(trifluoromethyl)-4,4,7-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one | 25 mg | COC1=C2C(CC(C(C2=CC(=C1)C)NC1=C2C=NN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C | C24H26F3N3O3
